US07420066B2
To a solution of C-(6-Bromo-pyridin-2-yl)-methylamine (5440 mg, 29.08 mmol) in dichloromethane (100 mL) at room temperature was added triethylamine (5886 mg, 58.17 mmol) and acetyl chloride (2511 mg, 31.99 mmol). The reaction mixture was heated at 40° C. for 3 h and cooled down to room temperature. A solution of sodium hydroxide (1N) was added and the reaction was stirred for 1 h at room temperature. The layers were separated and the organic phase was concentrated under reduced pressure. The crude mixture was dissolved in EtOH (50 mL) and concentrated hydrochloric acid (10 mL) was added. The mixture was stirred for 30 min and benzene was added followed by sodium hydroxide pellets until pH 10 was reached. The phases were separated and the organic layer was washed with an aqueous solution of ammonium chloride and the volatiles were removed in vacuo. The crude material was purified by column chromatography with a gradient of 0 to 5% methanol/dichloromethane to give N-(6-Bromo-pyridin-2-ylmethyl)-acetamide as viscous orange oil. MS ES (MH+229.1/231.0).

reactant | C-(6-Bromo-pyridin-2-yl)-methylamine | 29.08 mmol, 5440 mg | BrC1=CC=CC(=N1)CN | C6H7BrN2
reactant | triethylamine | 58.17 mmol, 5886 mg | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 31.99 mmol, 2511 mg | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-(6-Bromo-pyridin-2-ylmethyl)-acetamide | BrC1=CC=CC(=N1)CNC(C)=O | C8H9BrN2O
